US03946004
Reaction of phenoxazine with 2-chloro-1-(1-pyrrolin-2-yl)pyrroline hydrochloride according to the procedure of Example 7 affords 10-[1-(1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]PHENOXAZINE HYDROCHLORIDE, m.p. 257.5°-263° C. (corr.), from ethanol-ether.

reactant | phenoxazine | C1=CC=CC=2OC3=CC=CC=C3NC12 | C12H9NO
reactant | 2-chloro-1-(1-pyrrolin-2-yl)pyrroline hydrochloride | Cl.ClC=1N(CCC1)C1=NCCC1
product | 10-[1-(1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]PHENOXAZINE HYDROCHLORIDE | Cl.N1=C(CCC1)N1C(=CCC1)N1C2=CC=CC=C2OC=2C=CC=CC12 | InChI=1S/C20H19N3O.ClH/c1-3-9-17-15(7-1)23(16-8-2-4-10-18(16)24-17)20-12-6-14-22(20)19-11-5-13-21-19;/h1-4,7-10,12H,5-6,11,13-14H2;1H
